US08648068B2
98.4 4-[2-((R)-1-Acetyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
Prepared analogously to example 99.4 from 4-[4-fluoro-2-((R)-pyrrolidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide hydrochloride and acetic anhydride.

reactant | 4-[4-fluoro-2-((R)-pyrrolidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide hydrochloride | Cl.FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)O[C@H]2CNCC2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 4-[2-((R)-1-Acetyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | C(C)(=O)N1C[C@@H](CC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C20H20FN5O3S
